US06147075
7-Chloro-3,4-dihydro-6-fluoro-quinoxaline-2(1H)-one.
A suspension of N-(4'-chloro-5'-fluoro-2'-nitrophenyl)glycine sodiumsaltand N-(2'-chloro-5'-fluoro-4'-nitrophenyl)glycine sodium salt (0.175 g, 0.704 mmol) and tin (II) chloride dihydrate (0.475 g, 2.11 mmol) in ethanol (3.5 mL) was refluxed for 30 min. It was then cooled to room temperature and the solvent was removed under vacuum. The residue was diluted with water (10 mL) and the pH was adjusted with saturated NaHCO3 (3.0 mL) to pH~8. The resulting white suspension was extracted with ethyl acetate (30 mL). The ethyl acetate was dried over anhydrous Na2SO4 and removed under vacuum to yield 0.041 g (29%) pure (1H NMR) title compound as a light yellow powder; mp 217-219° C. (dec); 1H NMR (DMSO-d6) δ 3.75 (s, 2H), 6.37 (s, 1H), 6.59 (d, 1H, J=10.5 Hz), 6.74 (d, 1H, J=7.2 Hz), 10.33 (s, 1H).

reactant | N-(4'-chloro-5'-fluoro-2'-nitrophenyl)glycine | 0.704 mmol, 0.175 g | ClC1=CC(=C(C=C1F)NCC(=O)O)[N+](=O)[O-] | C8H6ClFN2O4
reactant | tin (II) chloride dihydrate | 2.11 mmol, 0.475 g | O.O.[Sn](Cl)Cl
solvent | ethanol | 3.5 mL | C(C)O | C2H6O
product | 7-Chloro-3,4-dihydro-6-fluoro-quinoxaline-2(1H)-one | ClC1=C(C=C2NCC(NC2=C1)=O)F | C8H6ClFN2O
